US07932272B2
2-(3-Phenoxy-phenyl)-1-quinolin-6yl-ethanone
According to an analogous method to Example W-3, 1-quinolin-6-yl-ethanone described in Preparation Example 131 (171 mg, 1 mmol), 1-phenoxy-3-bromobenzene (274 mg, 1.1 mmol), bis(dibenzylideneacetone)palladium (10 mg, 0.0187 mmol), 1,1′-bis(diphenylphosphino)ferrocene (12.5 mg, 0.0225 mmol), potassium tert-butoxide (236 mg, 2.1 mmol) and tetrahydrofuran (15 mL) were stirred at 70° C. for 6 hours under nitrogen atmosphere, and the title compound (64 mg, 0.189 mmol, 19%) was obtained as a pale yellow oily substance.

reactant | 1-quinolin-6-yl-ethanone | N1=CC=CC2=CC(=CC=C12)C(C)=O | C11H9NO
reactant | 1-phenoxy-3-bromobenzene | 1.1 mmol, 274 mg | O(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C12H9BrO
reactant | potassium tert-butoxide | 2.1 mmol, 236 mg | CC(C)([O-])C.[K+]
catalyst | bis(dibenzylideneacetone)palladium | 0.0187 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0225 mmol, 12.5 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(3-Phenoxy-phenyl)-1-quinolin-6yl-ethanone | 0.189 mmol, 64 mg, 19% | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)C=1C=C2C=CC=NC2=CC1 | C23H17NO2
